US04205170
To 95 mg of methyl 2-(10,11-dihydro-11-oxo dibenzo[b,f]-oxepin-3-yl)-propionate in 1 ml of toluene were added a small amount of zinc-amalgam, 0.3 ml of conc. hydochloric acid and 0.2 ml of water, and the mixture was refluxed with stirring for 1 hour. After cooling, the mixture was filtered and the filtrate was extracted with benzene. The extract was washed with saturated sodium chloride solution and dried over anhydrous sodium sulfate. The solvent was distilled off to obtain pale yellow oil, which was subjected to thin-layer chromatography to give 30 mg of methyl 2-(10,11-dihydro dibenzo[b,f]oxepin-3-yl)-propionate as pale yellow oil.

reactant | methyl 2-(10,11-dihydro-11-oxo dibenzo[b,f]-oxepin-3-yl)-propionate | 95 mg | O=C1C2=C(OC3=C(C1)C=CC=C3)C=C(C=C2)C(C(=O)OC)C | C18H16O4
reactant | hydochloric acid | 0.3 ml | Cl | ClH
reactant | water | 0.2 ml | O | H2O
solvent | toluene | 1 ml | C1(=CC=CC=C1)C | C7H8
product | methyl 2-(10,11-dihydro dibenzo[b,f]oxepin-3-yl)-propionate | 30 mg | C1=CC(=CC=2OC3=C(CCC21)C=CC=C3)C(C(=O)OC)C | C18H18O3
